US07939569B1
A solution of 3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenylamine hydrochloride (101 mg, 0.269 mmol), triethylamine (38 uL, 0.269 mmol) and methanesulfonyl chloride (27 uL, 0.349 mmol) in dry pyridine (4 mL) was reacted similar to N-[3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-phenyl]-methanesulfonamide above. The crude product was purified by flash chromatography with a 0-15% gradient of ethyl acetate in hexanes to yield 60 mg of N-[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenyl]-methanesulfonamide as a white solid. LC-MS (ES) calculated for C21H19F2NO4S, 419.45; found m/z 418 [M−H]−.

reactant | 3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenylamine hydrochloride | 0.269 mmol, 101 mg | Cl.FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC=1C=C(C=CC1)N)OC
reactant | triethylamine | 0.269 mmol, 38 uL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.349 mmol, 27 uL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-[3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-phenyl]-methanesulfonamide | FC1=C(C=C(C(=C1)F)F)C1=CC=C(C=C1)OCC=1C=C(C=CC1)NS(=O)(=O)C | C20H16F3NO3S
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-phenyl]-methanesulfonamide | 60 mg | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC=1C=C(C=CC1)NS(=O)(=O)C)OC | C21H19F2NO4S
